US04162327
12.4 g. (0.1 mole) of 2-furyl-acetone are dissolved in 100 ml. of ethanol, whereupon 7.25 g. (0.105 moles) of methyl-propinyl amine are added. 3.5 g. of aluminium foiles are degressed with ethanol and thereafter activated with a solution of 1 g. of mercuric chloride and 15 g. of sodium chloride in 30 ml. of water. The activating solution is decanted after 6-8 minutes and the activated aluminum foils are washed with cold water and added to the alcoholic solution previously prepared under stirring. An exothermic reaction takes place and the temperature is kept at 15° to 30° C. by cooling. The reaction mixture is stirred for 24 hours, whereupon 30 ml. of 40% sodium hydroxide are added. The two phases are separated, the lower aqueous phase is extracted three-times with benzene. The benzene solutions are united with the previously separated alcoholic phase and evaporated. The residue consists of an organic oily layer and an aqueous phase which is extracted with benzene and the benzene solution is dried over potassium carbonate. The benzene is removed and the residue is distilled off in vacuo. Thus 6.7 g. of N-methyl-N-[1-methyl-2-(2-furyl)-ethyl]-propynyl amine are obtained. BP.: 113°-115° C./20 Hgmm; nD20 =1.4905.

reactant | 2-furyl-acetone | 0.1 mole | O1C(=CC=C1)CC(C)=O | C7H8O2
reactant | methyl-propinyl amine | 0.105 moles | CNC#CC | C4H7N
reactant | aluminium | [Al] | Al
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N-methyl-N-[1-methyl-2-(2-furyl)-ethyl]-propynyl amine | CN(C(CC=1OC=CC1)C)C#CC | C11H15NO
